US08685977B2
2,4,5-Trifluoro-N-(methylsulfonyl)benzamide
2,4,5-Trifluorobenzoic acid (15 g, 85.2 mmol), 1-ethyl-3-(dimethylaminopropyl)carbodiimide (24.45 g, 128 mmol) and 4-dimethylaminopyridine (15.6 g, 128 mmol) were stirred in dichloromethane at room temperature for 15 minutes under an atmosphere of nitrogen. Methanesulfonamide (12.15 g, 128 mmol) and triethylamine (23.8 g, 254 mmol) were added and the reaction stirred at room temperature overnight. A 1M aqueous solution of hydrogen chloride was added and the mixture was extracted with ethyl acetate. The organic phase was washed sequentially with brine, dried over anhydrous magnesium sulphate, filtered and concentrated in vacuo. The resulting residue was recrystallised from a mixture of ethyl acetate and heptane to afford the title compound (7.8 g, 36%).

reactant | 2,4,5-Trifluorobenzoic acid | 85.2 mmol, 15 g | FC1=C(C(=O)O)C=C(C(=C1)F)F | C7H3F3O2
reactant | 1-ethyl-3-(dimethylaminopropyl)carbodiimide | 128 mmol, 24.45 g | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | Methanesulfonamide | 128 mmol, 12.15 g | CS(=O)(=O)N | CH5NO2S
reactant | triethylamine | 254 mmol, 23.8 g | C(C)N(CC)CC | C6H15N
reactant | hydrogen chloride | Cl | ClH
catalyst | 4-dimethylaminopyridine | 128 mmol, 15.6 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2,4,5-Trifluoro-N-(methylsulfonyl)benzamide | 7.8 g, 36% | FC1=C(C(=O)NS(=O)(=O)C)C=C(C(=C1)F)F | C8H6F3NO3S
